US04999353
(1-tert-butyl-1,2,3,4-tetrahydro-2,3-dioxo-quinoxaline
The neat crystals of N-tert-butyl-N-ethoxalyl-o-phenylene diamine (88 g) were heated to 100° C. for 4 h. The crude product hereby deposited from the melt as crystals. After cooling to ambient temperature the solid taken in ether and the product was filtered off as white crystals, m.p. >300° C.

reactant | N-tert-butyl-N-ethoxalyl-o-phenylene diamine | 88 g | C(C)(C)(C)N(C1=C(C=CC=C1)N)C(=O)C(=O)OCC | C14H20N2O3
solvent | ether | CCOCC | C4H10O
product | 1-tert-butyl-1,2,3,4-tetrahydro-2,3-dioxo-quinoxaline | C(C)(C)(C)N1C(C(NC2=CC=CC=C12)=O)=O | C12H14N2O2
